US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3-chlorophenyl)-piperazin-1yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(3-Chlorophenyl)piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.23 (t, 1H), 7.19 (s, 1H), 6.90 (d, 1H), 6.79 (d, 1H), 5.37 (s, 2H), 3.58 (m, 4H), 3.29 (m, 2H), 3.19 (m, 2H), 2.18 (s, 3H) ppm; MS (ES) M+H expected=421.1, found=421.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(3-Chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3-chlorophenyl)-piperazin-1yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl)C(F)(F)F | C17H17Cl2F3N4O
